US06878715B1
To a 50% solution of trifluoroacetic acid in dichloromethane (15 ml) was added (R)-1-(5-dimethylaminohexyl)-8-(N-BOC-aminomethyl)-3-methylxanthine (0.16 g, 0.38 mmol). After stirring at room temperature for 3 hours, the solvent and excess reagent were evaporated under reduced pressure. The residue was treated with ammonia-methanol solution (2.0 M, 10 ml) and stirred for 1 hour. Concentration under reduced pressure gave the crude product which was purified by flash chromatography on silica gel eluting with ammonium hydroxide (37% in water)-methanol-ethyl acetate (2:10:1). (R)-1-(5-Dimethylaminohexyl)-8-aminomethyl-3-methylxanthine (0.062 g, 50% yield) was obtained as an oil.

reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | (R)-1-(5-dimethylaminohexyl)-8-(N-BOC-aminomethyl)-3-methylxanthine | 0.38 mmol, 0.16 g | CN([C@@H](CCCCN1C(=O)N(C=2N=C(NC2C1=O)CNC(=O)OC(C)(C)C)C)C)C | C20H34N6O4
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | (R)-1-(5-Dimethylaminohexyl)-8-aminomethyl-3-methylxanthine | 0.062 g, 50% yield | CN([C@@H](CCCCN1C(=O)N(C=2N=C(NC2C1=O)CN)C)C)C | C15H26N6O2
